US07060844B2
A mixture of 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (100 mg, 0.33 mmol), pyridine (1 ml) and methanesulfonyl chloride (76 mg, 0.66 mmol) in THF (3.5 ml) was stirred for 16 hours, and was then poured into water (100 ml). The solid was filtered, washed with water and dried under vacuum to give a crude product. The crude product was triturated with MeOH/water to provide N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-methanesulfonamide as a yellow solid (100 mg, 81%).

reactant | 3-(6-amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 0.33 mmol, 100 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.66 mmol, 76 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 100 ml | O | H2O
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
product | N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-methanesulfonamide | 100 mg, 81% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC=C(C=C12)NS(=O)(=O)C | C17H13ClN2O4S
